US03957750
To a solution of 90 grams (0.316 moles) of butyl levulinate t-amylhydrazone in 150 mls. of petane in a 500 ml. round bottom flask was passed 10.9 grams (.154 moles) of chlorine holding the temperature at -20°C with a dry ice- isopropanol bath. The chlorine was added over 30 minutes and then the reaction was stirred an additional 15 minutes at -20°C and filtered. The filtrate was dried and the pentane evaporated leaving 46.6 grams of crude butyl 4-t-amylazo-4-chlorovalerate.

reactant | butyl levulinate t-amylhydrazone | 0.316 moles, 90 grams | C(C)(C)(CC)NN=C(CCC(=O)OCCCC)C | C14H28N2O2
reactant | chlorine | .154 moles, 10.9 grams | ClCl | Cl2
product | butyl 4-t-amylazo-4-chlorovalerate | 46.6 grams | C(C)(C)(CC)N=NC(CCC(=O)OCCCC)(C)Cl | C14H27ClN2O2
